US06410556B1
The above 2-(4-oxo-piperidin-2-ylmethyl)-isoindole-1,3-dione (0.20 g, 0.76 mmol) was dissolved in dichloromethane (5 ml). Saturated sodium bicarbonate solution (5 ml) was added followed by di-tert-butyl dicarbonate (0.20 g, 0.91 mmol). The reaction was stirred vigorously for 16 hours after which the organic phase was separated. The aqueous layer was extracted with dichloromethane (2×10 ml) and the combined organic extracts were dried (Na2SO4), filtered, and the solvent evaporated in vacuo. The residue was purified by silica gel chromatography using a gradient of ethyl acetate/dichloromethane (0 to 10% gradient) as eluent. Pure fractions were collected and the solvent evaporated in vacuo affording 0.23 g (85%) of 2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-oxo-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 2-(4-oxo-piperidin-2-ylmethyl)-isoindole-1,3-dione | 0.76 mmol, 0.20 g | O=C1CC(NCC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H14N2O3
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 0.91 mmol, 0.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.23 g, 85% | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)CN1C(C2=CC=CC=C2C1=O)=O | C19H22N2O5
